US04046908
[5-[(Cyclopropylmethyl)thio)-1H-benzimidazol-2-yl]carbamic acid, methyl ester
To a mixture of 9 g of 2-methyl-2-thiopseudourea sulfate in 6 ml of water there is added 5.7 ml of methyl chloroformate at 0° C and the mixture is stirred for 15 minutes. Then there is added 12 ml of 25% NaOH dropwise and the mixture is stirred for 15 minutes. Then there is added 6 ml of acetic acid dropwise and the mixture is stirred for 15 minutes. The total amount of 4-(cyclopropylmethyl)thio-o-phenylenediamine from above in 50 ml of methanol is then added and the mixture is refluxed for 2 hours. The alcohol is removed in vacuo and water is added. The resulting solid is filtrated off and crystallized from glyme-acetonitrile to yield, 3.9 g, m.p. 228°-231°.

reactant | 2-methyl-2-thiopseudourea sulfate | 9 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | methyl chloroformate | 5.7 ml | ClC(=O)OC | C2H3ClO2
reactant | NaOH | 12 ml | [OH-].[Na+]
reactant | 4-(cyclopropylmethyl)thio-o-phenylenediamine | C1(CC1)CSC1=CC(=C(C=C1)N)N | C10H14N2S
solvent | water | 6 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | [5-[(Cyclopropylmethyl)thio)-1H-benzimidazol-2-yl]carbamic acid, methyl ester | C1(CC1)CSC1=CC2=C(NC(=N2)NC(OC)=O)C=C1 | C13H15N3O2S
